* C:\Users\Lionheart\Documents\GitHub\Circuitos-I-TPs\Ejercicios\Parcial 2017-11-17\Ri.asc
Q1 VCQ_VOQ VSQ_VBQ VEQ 0 BC548B
RG1 VGQ 0 354545
RG2 VEE VGQ 100k
VCC VDQ 0 10
Cs VGQ vgen 1µ
vs vgen 0 SINE(0 5m 500) AC 1
J1 VDQ VGQ VSQ_VBQ J2N5486
VCC1 0 VEE 10
RC VDQ VCQ_VOQ 1K
RE VEQ VEE 300
RL VCQ_VOQ 0 5K
CE VEQ 0 100µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lionheart\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\Lionheart\Documents\LTspiceXVII\lib\cmp\standard.jft
.model BC548B NPN
+Is=7.049f
+Rb=100
+Xti=3
+Eg=1.11
+Vaf=100
+Bf=100
+Ise=68f
+Ne=1.576
+Ikf=81.57m
+Nk=.4767
+Xtb=1.5
+Br=1
+Isc=12.4f
+Nc=1.835
+Ikr=3.924
+Rc=.9747
+Cjc=5.25p
+Mjc=.3147
+Vjc=.5697
+Fc=.5
+Cje=11.5p
+Mje=.6715
+Vje=.63
+Tr=10n
+Tf=410.2p
+Itf=1.491
+Xtf=40.06
+Vtf=10
;tran 0 18m 10m 8u
.ac dec 30 1 1000000
.op
.model J2N5486  NJF
+Beta=3.55555555556m
+Betatce=-0.875
+Rd=1
+Rs=1
+Lambda=0.01
+Vto=-1.5
+vtotc=-2.5m
+Is=33.57f
+Isr=322.4f
+N=1
+Nr=2
+Xti=3
+Alpha=311.7u
+Vk=243.6
+Cgd=1.6p
+M=.3622
+Pb=1
+Fc=.5
+Cgs=2.414p
+Kf=5.497E-18
+Af=1
* VP=-1.5\nIDSS=8mA\nrgs---->Inf\nLambda=0.01v^-1
* B=100\nVA=100V\nrx=100
* VOQ=0
* Ro
* Ri
.backanno
.end
